US08304557B2
N-{3-[(6-aminopyridin-3-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide
To a solution of 5-(3-aminophenoxy)pyridin-2-amine (975 mg, 4.85 mmol) and pyridine (410 μL, 5.09 mmol) in tetrahydrofuran (10 mL) was added dropwise with stirring under ice-cooling a solution of 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride (807 mg, 5.09 mmol) in tetrahydrofuran (10 mL), and the mixture was stirred at room temperature for 2 hr. The reaction mixture was diluted with water, extracted with ethyl acetate (×3), and the organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate=80/20→40/100) and recrystallized from ethyl acetate-hexane to give the title compound (964 mg, 61%) as a white solid.

reactant | 5-(3-aminophenoxy)pyridin-2-amine | 4.85 mmol, 975 mg | NC=1C=C(OC=2C=CC(=NC2)N)C=CC1 | C11H11N3O
reactant | pyridine | 5.09 mmol, 410 μL | N1=CC=CC=C1 | C5H5N
reactant | 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride | 5.09 mmol, 807 mg | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-{3-[(6-aminopyridin-3-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 964 mg, 61% | NC1=CC=C(C=N1)OC=1C=C(C=CC1)NC(=O)C1=CC(=NN1C)C | C17H17N5O2
